US06841563B1
Synthesis of 2-[4-(2-amino-2-methylpropyl)phenoxy]-3-pyridinecarboxylic acid, ethyl ester.
4-(2-Amino-2-methylpropyl)phenol (55.18 grams, 244.9 mmol) was added to 5.05 N KOH (97.2 mmol, 2.0 equiv). The mixture was warmed to 50° C. to give a homogeneous yellow solution. Chlorobenzene (1104 mL) and N,N-dimethylacetamide (10.7 grams, 122 mmol) were added and the mixture was heated to reflux (ca. 100° C.). The water was removed azeotropically via a Dean-Stark trap. At ca. 125° C. a solid began to form. When the pot temperature reached132° C. the water had been removed and the reaction mixture was a thick but stirrable slurry (mechanical stirring required). The Dean-Stark trap was removed and an additional 100 mL of chlorobenzene was removed and discarded. Dry chlorobenzene (50 mL) was added to the slurry, followed by ethyl 2-chloronicotinate (50.0 grams, 269 mmol) in chlorobenzene (50 mL). The slurry was heated at reflux until the reaction was complete (ca. 24, hours). As the reaction progressed the slurry thinned and became beige in color. After cooling to room temperature, water (385 mL) and 1 N NaOH (25 mL, 0.1 equiv) were added to the mixture and the phases were separated. The organic phase was washed with water (285 mL) and the solution was concentrated to a net weight of 700 grams (9.83% potency by HPLC, 89% yield) for use in the next reaction.

reactant | 4-(2-Amino-2-methylpropyl)phenol | 244.9 mmol, 55.18 grams | NC(CC1=CC=C(C=C1)O)(C)C | C10H15NO
reactant | KOH | 97.2 mmol, 5.05 N, 2.0 equiv | [OH-].[K+]
reactant | N,N-dimethylacetamide | 122 mmol, 10.7 grams | CN(C(C)=O)C | C4H9NO
reactant | ethyl 2-chloronicotinate | 269 mmol, 50.0 grams | ClC1=C(C(=O)OCC)C=CC=N1 | C8H8ClNO2
reactant | NaOH | 1 N, 25 mL, 0.1 equiv | [OH-].[Na+]
solvent | chlorobenzene | 50 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | Chlorobenzene | 1104 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | water | 385 mL | O | H2O
product | 2-[4-(2-amino-2-methylpropyl)phenoxy]-3-pyridinecarboxylic acid, ethyl ester | 89% yield | NC(CC1=CC=C(OC2=NC=CC=C2C(=O)OCC)C=C1)(C)C | C18H22N2O3
